US07049444B2
N-{3-[3-(1-Benzofuran-2-ylmethyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide
To a suspension of N-{3-[3-(1-benzofuran-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide (Preparation 127, 200 mg, 0.487 mmol) in anhydrous tetrahydrofuran (5 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.97 ml, 0.97 mmol) and the reaction mixture was stirred at room temperature overnight. The rapidly stirred reaction mixture was treated sequentially with water (1.0 ml), sodium hydrogen carbonate (1.0 g) and ethyl acetate (15 ml). After 5 min, the reaction mixture was filtered and concentrated in vacuo to afford 180 mg of a pale yellow oil. This was purified by chromatography using a Biotage Flash 12™ cartridge packed with silica gel (8 g) eluting with hexane:ethyl acetate (100:0 to 0:100 over 30 min) then ethyl acetate:methanol (100:0 to 0:100 over 15 min) to afford the title compound as a white foam (136 mg, 70%).

reactant | N-{3-[3-(1-benzofuran-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | 0.487 mmol, 200 mg | O1C(=CC2=C1C=CC=C2)C(=O)N2CC1C(C1C2)(C)C=2C=C(C=CC2)NS(=O)(=O)C | C22H22N2O4S
reactant | lithium aluminium hydride | 0.97 mmol, 1.0M, 0.97 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.0 ml | O | H2O
reactant | sodium hydrogen carbonate | 1.0 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-{3-[3-(1-Benzofuran-2-ylmethyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | 180 mg | O1C(=CC2=C1C=CC=C2)CN2CC1C(C1C2)(C)C=2C=C(C=CC2)NS(=O)(=O)C | C22H24N2O3S
